US06329381B1
6-Amino-9-benzyl-8-methoxy-2-(2-methoxyethoxy)purine
6-Amino-9-benzyl-8-bromo-2-(2-methoxyethoxy)purine (69 mg, 0.18 mmol) in methanol (50 ml) was dissolved in 28% sodium methoxide/methanol (1 ml) and the mixture was refluxed on heating under stirring for 5 hours. The reaction mixture was concentrated in vacuo to dryness, and to the residue was added water. The solution was extracted with chloroform and the organic layer was dried on sodium sulfate and concentrated in vacuo to dryness. The residue was purified with silica gel chromatography (3% methanol/chloroform) to give the subject compound (26 mg, yield 43%).

reactant | 6-Amino-9-benzyl-8-bromo-2-(2-methoxyethoxy)purine | 0.18 mmol, 69 mg | NC1=C2N=C(N(C2=NC(=N1)OCCOC)CC1=CC=CC=C1)Br | C15H16BrN5O2
reactant | methanol | 50 ml | CO | CH4O
solvent | sodium methoxide methanol | 1 ml | C[O-].[Na+].CO
product | 6-Amino-9-benzyl-8-methoxy-2-(2-methoxyethoxy)purine | 26 mg, yield 43% | NC1=C2N=C(N(C2=NC(=N1)OCCOC)CC1=CC=CC=C1)OC | C16H19N5O3
